US03966760
A. 6-Nitroveratrylidene-N-(γ-aminopropyl)morpholine
A solution of N-(γ-aminopropyl)morpholine (63 g, 0.44 mole) and ethanol (50 ml) was introduced to a heated suspension of 6-nitroveratraldehyde (84 g, 0.4 mole), ethanol (600 ml) and acetic acid (1 ml). The resulting solution was refluxed for 1.5 hrs and allowed to cool overnight. The solvent was stripped leaving a dark oil which was dissolved in chloroform (300 ml) and washed with water. The chloroform was stripped giving 127 g (95%) of the product.

reactant | N-(γ-aminopropyl)morpholine | 0.44 mole, 63 g | NCCCN1CCOCC1 | C7H16N2O
reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | 6-nitroveratraldehyde | 0.4 mole, 84 g | [N+](=O)([O-])C1=CC(=C(C=C1C=O)OC)OC | C9H9NO5
reactant | ethanol | 600 ml | C(C)O | C2H6O
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-Nitroveratrylidene-N-(γ-aminopropyl)morpholine | 127 g, 95% | [N+](=O)([O-])C1=CC(=C(C=C1C=C1N(CCOC1)CCCN)OC)OC | C16H23N3O5
